US07049310B2
a) 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1H-indole
N-(Benzyloxycarbonyloxy)succinimide (8.9 g, 35.7 mmole) was added to a solution of 3-(methylaminomethyl)-1H-indole (5.2 g, 32.5 mmole), from Preparation 16, and triethylamine (5.0 mL, 65.7 mmole) in DMF (100 mL) at RT. The reaction was stirred overnight then was concentrated in vacuo. The residue was diluted with water and the mixture was extracted with ethyl acetate. The combined extracts were dried over Na2SO4 and concentrated. Flash chromatography on silica gel (33% ethyl acetate/hexanes) gave the title compound (7.0 g, 74%) as an off-white solid: MS (ES) m/e 295 (M+H)+.

reactant | N-(Benzyloxycarbonyloxy)succinimide | 35.7 mmole, 8.9 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | 3-(methylaminomethyl)-1H-indole | 32.5 mmole, 5.2 g | CNCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | triethylamine | 65.7 mmole, 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1H-indole | 7.0 g, 74% | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CNC2=CC=CC=C12 | C18H18N2O2
